US08912365B2
A stirred autoclave was charged, at room temperature, with 55.2 g (600 mmol) of glycerol, 3.9 g (30 mmol) of methyl caproate, 0.39 g (10 wt %) of camphosulfonic acid and 0.3 g (0.5 mol %) of Pd/C at 5%. The autoclave was then pressurized at 10 bar of dihydrogen gas H2, and then it was heated at 140° C. for 24 h, stirring vigorously. After 24 h of reaction, the reaction mixture was brought back to room temperature. The catalyst was filtered on a MILLIPORE® filter (a membrane filter) (0.45 μm) and was rinsed with absolute ethanol. The solvents were evaporated and the organic products were extracted from the glycerol phase by extraction with CH2Cl2 (3×50 ml). The organic phase was washed with water (2×30 ml) and the CH2Cl2 was then evaporated at reduced pressure. The crude reaction product was analyzed by GC/MS. 1-O-hexyl-glycerol ether was obtained at 22% GC yield.

reactant | glycerol | 600 mmol, 55.2 g | OCC(O)CO | C3H8O3
reactant | methyl caproate | 30 mmol, 3.9 g | C(CCCCC)(=O)OC | C7H14O2
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 1-O-hexyl-glycerol ether | C(CCCCC)OCC(O)CO.CCOCC | InChI=1S/C9H20O3.C4H10O/c1-2-3-4-5-6-12-8-9(11)7-10;1-3-5-4-2/h9-11H,2-8H2,1H3;3-4H2,1-2H3
